************************************************************************
* auCdl Netlist:
* 
* Library Name:  project
* Top Cell Name: AOI21
* View Name:     schematic
* Netlisted on:  Jan  9 19:53:17 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project
* Cell Name:    AOI21
* View Name:    schematic
************************************************************************

.SUBCKT AOI21 A1 A2 B GND OUT VDD
*.PININFO A1:I A2:I B:I OUT:O GND:B VDD:B
MM2 net1 B OUT VDD PMOS_VTG W=180.0n L=50n m=1
MM1 VDD A1 net1 VDD PMOS_VTG W=180.0n L=50n m=1
MM0 net1 A2 VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM5 GND B OUT GND NMOS_VTG W=90n L=50n m=1
MM4 net13 A1 GND GND NMOS_VTG W=90n L=50n m=1
MM3 OUT A2 net13 GND NMOS_VTG W=90n L=50n m=1
.ENDS

