************************************************************************
* auCdl Netlist:
* 
* Library Name:  project
* Top Cell Name: DBUFFER
* View Name:     schematic
* Netlisted on:  Jan 10 00:47:12 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project
* Cell Name:    DBUFFER
* View Name:    schematic
************************************************************************

.SUBCKT DBUFFER GND IN OUT VDD
*.PININFO IN:I OUT:O GND:B VDD:B
MM2 OUT net8 VDD VDD PMOS_VTG W=1.8u L=50n m=1
MM0 net8 IN VDD VDD PMOS_VTG W=600n L=50n m=1
MM3 OUT net8 GND GND NMOS_VTG W=1.08u L=50n m=1
MM1 net8 IN GND GND NMOS_VTG W=360.0n L=50n m=1
.ENDS

