************************************************************************
* auCdl Netlist:
* 
* Library Name:  project
* Top Cell Name: GREYCELLHP
* View Name:     schematic
* Netlisted on:  Jan 10 13:47:25 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project
* Cell Name:    AOI21
* View Name:    schematic
************************************************************************

.SUBCKT AOI21 A1 A2 B GND OUT VDD
*.PININFO A1:I A2:I B:I OUT:O GND:B VDD:B
MM2 net1 B OUT VDD PMOS_VTG W=180.0n L=50n m=1
MM1 VDD A1 net1 VDD PMOS_VTG W=180.0n L=50n m=1
MM0 net1 A2 VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM5 GND B OUT GND NMOS_VTG W=90n L=50n m=1
MM4 net13 A1 GND GND NMOS_VTG W=90n L=50n m=1
MM3 OUT A2 net13 GND NMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV GND IN OUT VDD
*.PININFO IN:I OUT:O GND:B VDD:B
MM0 OUT IN VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM1 OUT IN GND GND NMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project
* Cell Name:    GREYCELLHP
* View Name:    schematic
************************************************************************

.SUBCKT GREYCELLHP GG GND Gh Gl Ph VDD
*.PININFO Gh:I Gl:I Ph:I GG:O GND:B VDD:B
XI0 Ph Gl Gh GND net4 VDD / AOI21
XI1 GND net4 GG VDD / INV
.ENDS

