************************************************************************
* auCdl Netlist:
* 
* Library Name:  project
* Top Cell Name: INVX2
* View Name:     schematic
* Netlisted on:  Jan 10 00:11:22 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project
* Cell Name:    INVX2
* View Name:    schematic
************************************************************************

.SUBCKT INVX2 GND IN OUT VDD
*.PININFO IN:I OUT:O GND:B VDD:B
MM0 OUT IN VDD VDD PMOS_VTG W=600n L=50n m=1
MM1 OUT IN GND GND NMOS_VTG W=360.0n L=50n m=1
.ENDS

